US07122580B2
(2S)-[(-4′-Methoxy-biphenyl-3-carbonyl)-amino]-3-(4′-methoxyl-biphenyl-4-yl)-propionic acid
(2S)-(3-Bromo-benzoyl-amino)-3-(4-bromo-phenyl)-propionic acid methyl ester (100 mg, 0.22 mmol) was reacted with 4-methoxy-phenyl-boronic acid (204 mg, 1.4 mmol) according to general procedure D yielding the title compound (90 mg, 83%) as a white solid.

reactant | (2S)-(3-Bromo-benzoyl-amino)-3-(4-bromo-phenyl)-propionic acid methyl ester | 0.22 mmol, 100 mg | COC([C@H](CC1=CC=C(C=C1)Br)NC(C1=CC(=CC=C1)Br)=O)=O | C17H15Br2NO3
reactant | 4-methoxy-phenyl-boronic acid | 1.4 mmol, 204 mg | COC1=CC=C(C=C1)B(O)O | C7H9BO3
product | (2S)-[(-4′-Methoxy-biphenyl-3-carbonyl)-amino]-3-(4′-methoxyl-biphenyl-4-yl)-propionic acid | 90 mg, 83% | COC1=CC=C(C=C1)C1=CC(=CC=C1)C(=O)N[C@H](C(=O)O)CC1=CC=C(C=C1)C1=CC=C(C=C1)OC | C30H27NO5
